US07439371B2
N-Methyl-3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzamide
A 1 mL vial was charged with N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2-{3-[1-hydroxy-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl}-benzamide (as prepared below; 55 mg, 0.135 mmol), 4-(4-methyl-piperazin-1-yl)-phenylamine (25.8 mg, 0.138 mmol), and THF (1 mL). This reaction mixture was stirred for 24 h at 68° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The crude residue was re-suspended in EtOAc (5 mL) and extracted with H2O (˜5 mL). The organic layer was concentrated in vacuo and the residue was chromatographed via flash silica gel chromatography (gradient of 1-10% MeOH in CHCl3) afforded the title compound in 35% yield (27 mg, 0.047 mmol).

reactant | N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2-{3-[1-hydroxy-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl}-benzamide | 0.135 mmol, 55 mg | CN1N=C(C=C1NC(C1=C(C=CC=C1)SC1=CC=C2/C(/C(NC2=C1)=O)=C/O)=O)C | C21H18N4O3S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.138 mmol, 25.8 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-Methyl-3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzamide | 35% yield | CNC(C1=CC(=CC=C1)SC1=CC=C2C(C(NC2=C1)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C)=O | C28H29N5O2S
